US06177419B1
6-(3-Fluoro-2-hydroxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine and 3-fluoro-2-hydroxyphenylboronic acid in 17% yield using method F; δH [2H6]-DMSO 13.37,(1H, b), 8.38,(1H, d), 8.34-8.15,(4H, m), 8.10,(1H, d), 8.01,(1H, d), 7.95,(1H, d), 7.34,(1H, t), 6.98,(1H, m), 6.81,(2H, m), 2.33,(3H, s).

reactant | 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C17H13BrN2O
reactant | 3-fluoro-2-hydroxyphenylboronic acid | FC=1C(=C(C=CC1)B(O)O)O | C6H6BFO3
product | 6-(3-Fluoro-2-hydroxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | 17% yield | FC=1C(=C(C=CC1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O)O | C23H17FN2O2
